US08748624B2
STEP C: ethyl 3-(5-(3-chloro-5-formylphenyl)picolinamido)propanoate
3-bromo-5-chlorobenzaldehyde (502 mg, 2.3 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (794 mg, 2.3 mmol), Pd(dppf)Cl2 (84 mg, 0.1 mmol), and K2CO3 (632 mg, 4.6 mmol) were dissolved in 1,4-dioxane (10 mL) and water (2 mL) and the resulting mixture was heated to 70° C. After 3 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | 3-bromo-5-chlorobenzaldehyde | 2.3 mmol, 502 mg | BrC=1C=C(C=O)C=C(C1)Cl | C7H4BrClO
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 2.3 mmol, 794 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 4.6 mmol, 632 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 84 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(3-chloro-5-formylphenyl)picolinamido)propanoate | ClC=1C=C(C=C(C1)C=O)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H17ClN2O4
